### PR TITLE
Symmetry of quadratic residue

### PR DESCRIPTION
**Pull request by thery**
##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: boot/div.v [hunk 1]
```diff
@@ -338,6 +338,16 @@ Proof. by elim: m => // m IHm; rewrite !expnS -modnMmr IHm modnMml modnMmr. Qed.
 Lemma modnMDXl p m n d : (p * d + m) ^ n  = m ^ n %[mod d].
 Proof. by elim: n => // n IH; rewrite !expnS -modnMm IH modnMDl modnMm. Qed.
 
+Lemma modn_sqrB m n : n <= m -> (m - n) ^ 2 = n ^ 2 %[mod m].
```
Comment (proux01) [inline boot/div.v]: Could it be generalized to `modnMBXl p m n d : n <= p * d -> (p * d - m) ^ n = m ^ n %[mod d]`?

Comment (thery) [reply boot/div.v]: is this true? Maybe wheb `n` even

Comment (thery) [reply boot/div.v]: anyway dealing `-` is hell in `nat`. Not sure how I will make it to prove it.

File: boot/div.v [hunk 2]
```diff
@@ -338,6 +338,16 @@ Proof. by elim: m => // m IHm; rewrite !expnS -modnMmr IHm modnMml modnMmr. Qed.
...
+Proof.
+move=> nLm; rewrite -sqrnD_sub // -modnXm -(modnDl n m) modnXm.
+suff Hp : 4 * (m * n) <= (m + n) ^ 2.
+  by rewrite -[in RHS](subnK Hp) -modnDmr mulnCA -modnMml modnn mod0n addn0.
+case: ltngtP nLm => // [nLm|->] _.
+  by apply: ltnW; rewrite -subn_gt0 sqrnD_sub ?expn_gt0 ?subn_gt0 ?nLm // ltnW.
+by rewrite addnn -mul2n expnMn.
```
Comment (proux01) [inline boot/div.v]: Maybe (nitpicking)

```suggestion
move=> nm; rewrite -sqrnD_sub // -modnXm -(modnDl n m) modnXm.
suff mn4 : 4 * (m * n) <= (m + n) ^ 2.
  by rewrite -[in RHS](subnK mn4) -modnDmr mulnCA -modnMml modnn mod0n addn0.
case: ltngtP nm => [nm|//|->] _; last by rewrite addnn -mul2n expnMn.
by apply: ltnW; rewrite -subn_gt0 sqrnD_sub ?expn_gt0 ?subn_gt0 ?nm // ltnW.
```

File: boot/div.v (hunk 1 above)
Comment (proux01) [reply boot/div.v]: Ok, let's merge as is, could you just add the changelog entry
